US07435823B2
Preparation of 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-5-(trifluoromethyl)benzenamine
Into a 100 mL round bottom flask was placed LAH (1.518 g, 40 mmol) and suspended in THF (30 mL). Flask placed into an ice bath. Tert-butyl 4-(3-amino-5-(trifluoromethyl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate (1.368 g, 4 mmol) is added to THF (10 mL) and this solution is in turn added dropwise to the LAH suspension at 0° C. 15 min after addition was complete, flask is equipped with reflux condensor and allowed to reflux 15 h with stirring. Work up: Water (1.5 g) is added dropwise, then 15% NaOH(aq)(w/w)(1.5 g), followed by water (3 g). White precipitate forms after 20 h of stirring, filtered solids, removed solvent under reduced pressure. No further purification done. LC-MS(+) shows mass 257 (M+H), as expected for C13H15F3N2, mw 256.27.

reactant | LAH | 40 mmol, 1.518 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Tert-butyl 4-(3-amino-5-(trifluoromethyl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 4 mmol, 1.368 g | NC=1C=C(C=C(C1)C(F)(F)F)C1=CCN(CC1)C(=O)OC(C)(C)C | C17H21F3N2O2
reactant | Water | 1.5 g | O | H2O
reactant | NaOH | 1.5 g | [OH-].[Na+]
reactant | water | 3 g | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-5-(trifluoromethyl)benzenamine | CN1CCC(=CC1)C=1C=C(C=C(C1)C(F)(F)F)N | C13H15F3N2
